US08242143B2
200 mg (0.85 mmol, 1 eq) 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyrimidine, 50 mg (0.043mmol, 0.05 eq) tetrakis(triphenylphosphine)palladium(0), and 2 mL of 0.5 M cyclohexylzinc bromide in THF (1 mmol, 1.1 eq) were combined. The reaction mixture was heated at 150° C. in the microwave for 5 min, quenched with pH 10 PBS, extracted with DCM. Silica gel chromatography (gradient 10% to 40% EtOAc/Hexanes) gave 2-cyclohexyl-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyrimidine (L-001152744). LC-MS calculated for C16H17N3S 283, observed m/e 284.1 (M+H)+.

reactant | 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyrimidine | 0.85 mmol, 200 mg, 1 eq | ClC1=NC=C(C=N1)C#CC=1N=C(SC1)C | C10H6ClN3S
reactant | cyclohexylzinc bromide | 0.5 M, 2 mL | [Br-].C1(CCCCC1)[Zn+]
reactant | THF | 1 mmol, 1.1 eq | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.043mmol, 50 mg, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-cyclohexyl-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyrimidine | C1(CCCCC1)C1=NC=C(C=N1)C#CC=1N=C(SC1)C | C16H17N3S
